US06436923B1
A. 2-(4-Acetamidophenyl)-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline
A solution of 2-(4-aminophenyl)-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline (0.205 g, 0.46 mmol) and TEA (0.060 g, 0.6 mmol) in 1 mL of CH2Cl2 at 0° C. was treated with acetyl chloride (0.043 g, 0.55 mmol). The reaction mixture was warmed to room temperature and stirred for 3 hours. The reaction was quenched by the addition of saturated aqueous NaHCO3 (0.5 mL). The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (3×2 mL). The combined organic layer was dried over MgSO4 then concentrated. The crude product was purified by column chromatography to provide the title compound (0.195 g, 87% yield). ES-MS, (m/z) 493 [M+H]+.

reactant | 2-(4-aminophenyl)-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 0.46 mmol, 0.205 g | NC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OC)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C30H30N2O2
reactant | acetyl chloride | 0.55 mmol, 0.043 g | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Acetamidophenyl)-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 0.195 g, 87% yield | C(C)(=O)NC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OC)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C32H32N2O3
